US04116956
To a mixture of 2.5 parts of 2-amino-7-methyl-5-phenyl-3H-1,4-benzodiazepine, 100 parts by volume of methanol and 1.2 parts of glacial acetic acid is added 2.5 parts of 100% hydrazine hydrate. The mixture is stirred for 1 hour at room temperature and treated in a similar manner to Example 1, whereby 2-hydrazino-7-methyl-5-phenyl-3H-1,4-benzodiazepine is yielded as crystals. Recrystallization from a mixture of chloroform and diethyl ether affords colorless crystals melting at 240° C to 241° (decomposition).

reactant | 2-amino-7-methyl-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C | C16H15N3
reactant | methanol | CO | CH4O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-hydrazino-7-methyl-5-phenyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C | C16H16N4
